US08614220B2
8-[5-(4-Ethyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A94B1C1Z)
Tris(dibenzilideneacetone)dipalladium, Pd2(dba)3, (9.1 mg, 0.01 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (7.8 mg, 0.02 mmol), 8-[2-trifluoromethoxy-5-bromo-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (200 mg, 0.41 mmol) in THF (4.5 mL) were charged in a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. LiN(TMS)2 solution (1M in THF, 2.7 mL) and N-ethylpiperazine (0.125 mL, 0.98 mmol) were added and the reaction mixture refluxed for 3 h. The reaction mixture was then allowed to cool to room temperature and concentrated. The crude solid was purified by flash chromatography on silica gel (eluant: DCM/EtOH 90/10) to afford 46 mg (52% yield) of the title compound.

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 0.02 mmol, 7.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 8-[2-trifluoromethoxy-5-bromo-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.41 mmol, 200 mg | FC(OC1=C(C=C(C=C1)Br)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)(F)F | C18H14BrF3N6O2
reactant | LiN(TMS)2 | 1M, 2.7 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | N-ethylpiperazine | 0.98 mmol, 0.125 mL | C(C)N1CCNCC1 | C6H14N2
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.01 mmol, 9.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-[5-(4-Ethyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 46 mg, 52% yield | C(C)N1CCN(CC1)C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)OC(F)(F)F | C24H27F3N8O2
